US07235560B2
4,4,4-Trifluoro-1-(5-methylsulfanyl-pyridin-2-yl)-butane-1,3-dione
A stirring solution of sodium hydride (0.253 g, 6.31 mmol) in anhydrous tetrahydrofuran (20 mL) was cooled under nitrogen to 0° C. before the addition of 1-(5-methylsulfanyl-pyridin-2-yl)-ethanone (0.880 g, 5.26 mmol) in anhydrous tetrahydrofuran (20 mL). Ethyl trifluoroacetate (0.751 mL, 6.31 mmol) was added dropwise and the reaction allowed to rise in temperature to 22° C., then heated to reflux and stirred under nitrogen for 17 hours. The solvent was removed and the residue partitioned between saturated aqueous ammonium chloride (10 mL) and dichloromethane (10 mL). The aqueous layer was separated and extracted with DCM (×3). The organic layers were combined, dried and the solvent removed to yield the title compound: MS m/z 264 (M+1).

reactant | sodium hydride | 6.31 mmol, 0.253 g | [H-].[Na+]
reactant | 1-(5-methylsulfanyl-pyridin-2-yl)-ethanone | 5.26 mmol, 0.880 g | CSC=1C=CC(=NC1)C(C)=O | C8H9NOS
reactant | Ethyl trifluoroacetate | 6.31 mmol, 0.751 mL | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 4,4,4-Trifluoro-1-(5-methylsulfanyl-pyridin-2-yl)-butane-1,3-dione | FC(C(CC(=O)C1=NC=C(C=C1)SC)=O)(F)F | C10H8F3NO2S
